US09120822B2
A solution of 3-hydroxy-6-methoxyquinoline-4-carboxylic acid methyl ester (5 g, 21.44 mmol, 1.0 eq) in tetrahydrofuran (40 mL) is added at 0° C. to a stirred solution of lithium aluminium hydride (1.63 g, 42.88 mmol, 2.0 eq) in tetrahydrofuran (200 mL). After 1 hour stirring at 0° C., the reaction mixture is cautiously quenched with ice-water (5 mL). After 30 minutes stirring at room temperature, the pH is adjusted to 6 by the addition of a 1N hydrochloric acid aqueous solution, the resulting mixture is filtered and the filtrate is concentrated to afford 4-hydroxymethyl-6-methoxy-quinoline-3-ol as a yellow solid (4 g, 90% yield).

reactant | 3-hydroxy-6-methoxyquinoline-4-carboxylic acid methyl ester | 21.44 mmol, 5 g, 1.0 eq | COC(=O)C1=C(C=NC2=CC=C(C=C12)OC)O | C12H11NO4
reactant | lithium aluminium hydride | 42.88 mmol, 1.63 g, 2.0 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-hydroxymethyl-6-methoxy-quinoline-3-ol | 4 g, 90% yield | OCC1=C(C=NC2=CC=C(C=C12)OC)O | C11H11NO3
